US09102688B2
General Procedure 9: Pyridine-2-Sulfonyl Chloride (Intermediate 18)
Sodium hypochlorite solution (conc., 62 ml) was added dropwise to a stirred solution of pyridine-2-thiol (1.0 g, 8.995 mmol) dissolved in H2SO4 (25 ml) at 0° C. The mixture was stirred for 30 min, water (15 ml) added and the mixture extracted with DCM. The organic phases were combined, dried (MgSO4) and concentrated in vacuo gave the title compound (800 mg, 50%) which was used in the next step without purification. The structure was confirmed by 1H NMR.

reactant | Sodium hypochlorite | 62 ml | Cl[O-].[Na+]
reactant | pyridine-2-thiol | 8.995 mmol, 1.0 g | N1=C(C=CC=C1)S | C5H5NS
reactant | water | 15 ml | O | H2O
reactant | H2SO4 | 25 ml | OS(=O)(=O)O | H2O4S
product | Pyridine-2-Sulfonyl Chloride | 800 mg, 50% | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
